US05304565
6-(2-Benzoyloxyethyloxy)-3-[[2'-(N-methoxymethyltetrazol-5-yl)-biphenyl-4-yl]methyl]-2-propyl-4(3H)-quinazolinone
To a solution of 6-(2-hydroxyethyloxy)-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-2-propyl-4(3H)-quinazolinone (0.09 g) in pyridine (2 ml) was added benzoyl chloride (0.08 ml) and the reaction solution was stirred at room temperature for 4 hours. The mixture was extracted with ethyl acetate-water and the organic layer was washed with water, dried and evaporated to dryness. The residue was purified by column chromatography on silica gel to give a colorless oil (0.1 g, 93%).

reactant | 6-(2-hydroxyethyloxy)-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-2-propyl-4(3H)-quinazolinone | 0.09 g | OCCOC=1C=C2C(N(C(=NC2=CC1)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1COC)=O | C29H30N6O4
reactant | benzoyl chloride | 0.08 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 6-(2-Benzoyloxyethyloxy)-3-[[2'-(N-methoxymethyltetrazol-5-yl)-biphenyl-4-yl]methyl]-2-propyl-4(3H)-quinazolinone | 0.1 g, 93% | C(C1=CC=CC=C1)(=O)OCCOC=1C=C2C(N(C(=NC2=CC1)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1COC)=O | C36H34N6O5
